data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_182498_1,[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])[C:5](/[N:8]=[C:6](\[C:3]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11])=[N:9]\[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])[C@@:6]([C:3]([H:19])([H:20])[H:21])([N:7]([H:10])[H:11])[N:8][C:5][N:9][H:12])([H:13])([H:14])[H:15],46.80961749998929
MR_36212_0,[C:1]([C:2](/[C:7](=[C:8](\[C:5]([H:21])([H:22])[H:23])[H:14])[H:13])([H:11])[H:12])([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[C:6](=[O:9])[H:10]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[C:2]([H:11])([H:12])[C@:7]1([C@@:8]([C:5]([H:21])([H:22])[H:23])([C:6](=[O:9])[H:10])[H:14])[H:13],69.10218249999204
MR_553353_1,[C:1]([C:3](/[C:2]([N:4]([H:10])[H:11])=[N:8]/[O:7][H:9])=[C:6](\[N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:3]1=[C:2]([N:4]([H:10])[H:11])[N:8]([O:7][H:9])[C@:6]1([N:5]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],34.86264500001198
MR_262493_1,[C:1]([C:4]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:9])=[O:8])([O:6][C:2]([H:12])([H:13])[H:14])([O:7][H:10])[H:11]>>[C:1]([C:4]([C:5]([C:3]([H:15])([H:16])[H:17])([O:6][C:2]([H:12])([H:13])[H:14])[O:9][H:10])=[O:8])(=[O:7])[H:11],36.064935000008376
MR_148450_0,[C:1]([N:3]1[C:4]([O:6][H:7])[C:5]1[C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@:4]1([O:6][H:7])[N:3][C:5]1[C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10],58.9272699999637
MR_24113_0,[C:1]1([C:2]([C:5]([C:4]([H:15])([H:16])[H:17])=[O:8])([N:6]([H:11])[H:12])[H:10])([H:9])[C:3]([H:13])([H:14])[O:7]1>>[C:1]1([C@@:2]([C:5]([C:4]([H:15])([H:16])[H:17])=[O:8])([N:6]([H:11])[H:12])[H:10])([H:9])[C:3]([H:13])([H:14])[O:7]1,64.34322249998672
MR_136852_0,[C:1]([C:2]([H:10])([H:11])[H:12])([O:3][O:4][H:7])([O:5][H:8])[O:6][H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([O:3][O:6][H:9])([O:4][H:7])[O:5][H:8],60.83988999998581
MR_91136_0,[C@@:1]1([N:5]([H:8])[H:9])([H:10])[C:4]([C:2]([H:13])([H:14])[H:15])([C:6]([C:3]([H:16])([H:17])[H:18])([H:11])[H:12])[O:7]1>>[C:1]([N:5]([H:8])[H:9])([O:7]/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11],56.27106249999983
MR_94456_1,[C:1]([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])=[O:7])[C:6](=[O:8])[H:9]>>[C:1]([C:2]([H:10])([H:12])[H:13])([C:3]([H:11])([H:14])[H:15])=[C:5]([C:4]([H:16])([H:17])[H:18])[O:7][C:6](=[O:8])[H:9],49.93895999997136
MR_104467_2,[C:1]([C:3](=[C:5]([H:12])[H:13])[H:9])(=[C:4]([H:10])[H:11])[O:6][C:2](=[O:7])[H:8]>>[C:1]([C:2](=[O:7])[H:8])(=[C:4]([H:10])[H:11])[O:6][C:3](=[C:5]([H:12])[H:13])[H:9],73.27945000000355
MR_544105_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])=[O:8])[O:6][O:7][H:9]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])[C@@:5]([C:4]([H:16])([H:17])[H:18])([O:6][O:7][H:9])[O:8]1,58.14415000001475
MR_455266_0,[C:1](/[C:3]([N:2]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])=[N:7]\[H:13])([O:6][H:8])([H:14])[H:15]>>[C:1]([N:2](/[C:3]([N:5]([H:11])[H:12])=[N:7]\[H:13])[N:4]([H:9])[H:10])([O:6][H:8])([H:14])[H:15],57.98978500001212
MR_29097_1,[C@:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[N:5]([H:9])[H:10])([C:6](=[O:7])[H:11])[H:8]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:6]([N:4]([C:2]([H:12])([H:13])[H:14])[N:5]([H:9])[H:10])=[O:7])([H:8])[H:11],67.18768000001035
MR_368399_0,[C:1]1([H:10])([H:11])[C:5](=[O:8])[N:4]([H:9])[C:6]([C:2]([H:12])([H:13])[H:14])=[C:7]1[C:3]([H:15])([H:16])[H:17]>>[C:1]1([H:10])([H:11])[C:5](=[O:8])[C@@:7]1([C:3]([H:15])([H:16])[H:17])/[C:6]([C:2]([H:12])([H:13])[H:14])=[N:4]/[H:9],69.77298000001056
MR_642474_1,[C:1]([N:2]([N:4]([H:10])[H:11])[O:6][H:9])(/[C:3]([C:5](=[O:8])[H:15])=[N:7]\[H:12])([H:13])[H:14]>>[C:1](/[N:2]=[N:4]/[H:10])(/[C:3]([C:5]([O:6][H:9])([O:8][H:11])[H:15])=[N:7]\[H:12])([H:13])[H:14],23.37123749999023
MR_138405_1,[N:1](/[C:2]([N:4]([H:11])[H:12])=[N:6]/[N:3]([H:9])[H:10])([N:5]=[O:7])[H:8]>>[N:1]1([H:8])[C:2]([N:4]([H:11])[H:12])(/[N:6]=[N:3]/[H:9])[N:5]1[O:7][H:10],66.61602750002686
MR_562383_1,[C:1]([C:3]([H:20])([H:21])[H:22])([C:4]([H:23])([H:24])[H:25])([N:5]([C:2]([H:17])([H:18])[H:19])[N:7]([H:11])[H:12])[N:10]=[C:6]([N:8]([H:13])[H:14])[N:9]([H:15])[H:16]>>[C:1]([C:3]([H:20])([H:21])[H:22])([C:4]([H:23])([H:24])[H:25])=[N:10][C:6]([N:5]([C:2]([H:17])([H:18])[H:19])[N:7]([H:11])[H:12])([N:8]([H:13])[H:14])[N:9]([H:15])[H:16],56.72411749996172
MR_471732_0,[C:1]1([N:5]([H:12])[H:13])([O:7][H:10])[C:4]([O:8][H:11])([O:9][H:15])[C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[O:6]1>>[C:1]([C:4]([O:8][H:11])=[O:9])([N:5]([H:12])[H:13])([O:6][C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])[O:7][H:10],70.10869249991202
